US07531553B2
Preparation III: 1-Chloro-4-isothiocyanato-2-trifluoromethyl-benzene.
To a 0° C. solution of 5-amino-2-chlorobenzotrifluoride (0.932 g, 4.76 mmol) in 30 mL CH2Cl2 was added 1,1′-thiocarbonyldiimidazole (0.976 g, 1.15 mmol). The reaction was warmed to RT and stirred for 45 min. The reaction was stirred for an additional 1 h, during which additional 1,1′-thiocarbonyldiimidazole (0.50 g and 0.20 g) was added at 30 min intervals. The reaction was concentrated down to a small volume and purified by short column silica gel chromatography using EtOAc:hexanes (15:75), to obtain the title compound.

reactant | 5-amino-2-chlorobenzotrifluoride | 4.76 mmol, 0.932 g | NC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H5ClF3N
reactant | 1,1′-thiocarbonyldiimidazole | 1.15 mmol, 0.976 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1,1′-thiocarbonyldiimidazole | 0.50 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-Chloro-4-isothiocyanato-2-trifluoromethyl-benzene | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
